US09340544B2
4-(2-Hydrazino-9-methyl-9H-purin-6-ylamino)-benzonitrile
Was prepared according to Example 8 from 4-(2-chloro-9-methyl-9H-purin-6-ylamino)-benzonitrile and hydrazine monohydrate.

reactant | 4-(2-chloro-9-methyl-9H-purin-6-ylamino)-benzonitrile | ClC1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C#N)C=C1 | C13H9ClN6
reactant | hydrazine monohydrate | O.NN
product | 4-(2-Hydrazino-9-methyl-9H-purin-6-ylamino)-benzonitrile | N(N)C1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C#N)C=C1 | C13H12N8
